US09120749B2
(6-bromo-4-(4-(3,3-difluoropyrrolidin-1-yl)cyclohexylamino)quinolin-3-yl)(cyclopropyl)methanone
Following General procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (311 mg, 1 mmol) was reacted with 4-(3,3-difluoropyrrolidin-1-yl)cyclohexanamine (306 mg, 1.5 mmol) to afford the desired product (218 mg, 46%) as a yellow solid: ESI MS m/z 478 [C23H26BrF2N3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1 mmol, 311 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 4-(3,3-difluoropyrrolidin-1-yl)cyclohexanamine | 1.5 mmol, 306 mg | FC1(CN(CC1)C1CCC(CC1)N)F | C10H18F2N2
product | (6-bromo-4-(4-(3,3-difluoropyrrolidin-1-yl)cyclohexylamino)quinolin-3-yl)(cyclopropyl)methanone | 218 mg, 46% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)N1CC(CC1)(F)F | C23H26BrF2N3O
